US07754737B2
A solution of (R)-tert-butyl 3-((S)-1-(3-chloro-2-fluorophenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate (100 mg) in 20% TFA/CH2Cl2 was stirred at 0° C. for 30 min. The mixture was neutralized by addition of sat'd aq NaHCO3, extracted with CH2Cl2 (3×) and dried over Na2SO4. Evaporation of the solvent gave (S)-1-(3-chloro-2-fluorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol (70 mg, 91%), which was used without further purification. 1H NMR (400 MHz, CDCl3): 0.90 (m, 1H), 1.52-1.24 (m, 6H), 1.78 (m, 1H), 1.83 (m, 1H), 1.93 (m, 1H), 2.21 (m, 1H), 2.40 (m, 1H), 2.83 (m, 1H), 3.00 (m, 1H), 3.12 (s, 3H), 3.31 (m, 2H), 3.63 (m, 1H), 7.06 (m, 1H), 7.30 (m, 1H), 7.55 (t, 1H). MS (E/Z): 330 (M+H+).

reactant | (R)-tert-butyl 3-((S)-1-(3-chloro-2-fluorophenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate | 100 mg | ClC=1C(=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C)F | C22H33ClFNO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S)-1-(3-chloro-2-fluorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol | 70 mg, 91% | ClC=1C(=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CNCCC1)F | C17H25ClFNO2
